US06503907B2
13.2 g (41.5 mmol) 5-Benzyloxy-1-(4-fluoro-phenyl)-1H-indole in 150 ml ethanol were hydrogenated in the presence of 200 mg 5%Pd/C to yield 6.6 g (70%) 1-(4-Fluoro-phenyl) -1H-indol-5-ol as white solid, MS: 227 (M).

reactant | 5-Benzyloxy-1-(4-fluoro-phenyl)-1H-indole | 41.5 mmol, 13.2 g | C(C1=CC=CC=C1)OC=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)F | C21H16FNO
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 1-(4-Fluoro-phenyl) -1H-indol-5-ol | 6.6 g, 70% | FC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)O | C14H10FNO
